US08309577B2
To a suspension of 5-methylpyrazin-2-amine (1.09 g, 10 mmol) in chloroform (100 mL) was added pyridine (0.85 mL, 10.5 mmol). The mixture was stirred in a foil-wrapped flask fitted with an addition funnel, and a solution of bromine (0.54 mL, 10.5 mmol) in chloroform (10 mL) was added dropwise over 10 min. The mixture was allowed to react an additional 20 minutes after addition was complete and then poured into a separatory funnel containing 10 mL water. The phases were separated and the organics washed again with water, dried over sodium sulfate, filtered and concentrated in vacuo. The resulting red oil was purified by silica gel chromatography with 12-100% EtOAc/hexanes. The major UV active peak was collected to give 3-bromo-5-methylpyrazin-2-amine (1.06 g, 5.64 mmol, 56.4% yield) as a cream-colored solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 7.85 (s, 1H) 6.42 (br. s., 2H) 2.25 (s, 3H). MS (LC/MS) R.T.=0.93; [M+H]+=189.9.

reactant | 5-methylpyrazin-2-amine | 10 mmol, 1.09 g | CC=1N=CC(=NC1)N | C5H7N3
reactant | pyridine | 10.5 mmol, 0.85 mL | N1=CC=CC=C1 | C5H5N
reactant | bromine | 10.5 mmol, 0.54 mL | BrBr | Br2
reactant | water | 10 mL | O | H2O
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-5-methylpyrazin-2-amine | 5.64 mmol, 1.06 g, 56.4% yield | BrC=1C(=NC=C(N1)C)N | C5H6BrN3
